US07354942B2
To a solution of 2-amino-2-methyl-3-phenylpropan-1-ol I (28 mg, 0.17 mmol) in 0.5 nL DMF cooled to 0° C. was added sodium hexamethyldisylazide (0.17 mL, 0.17 mmol, 1 M in THF). The reaction mixture was stirred at 0° C. for 5 min and intermediate III 3-(bromomethyl)-N-[(1R)-1-(4-fluorophenyl)ethyl]-5-[methyl(methylsulfonyl)amino]benzamide (25 mg, 0.06 mmol) in 0.5 mL DMF was added dropwise. The reaction mixture was stirred at 0° C. for 0.5 h and purified by preparative HPLC (5%->95% CH3CN in water containing 0.1% TFA, C18 PRO YMC 20×150 mm) to afford 3-[(2-amino-2-methyl-3-phenylpropoxy)methyl]-N-[(1R)-1-(4-fluorophenyl)ethyl]-5-[methyl(methylsulfonyl)amino]benzamide. 1H NMR (400 MHz, d4-MeOH) δ 8.87 (d, J=8 Hz, 1H), 7.86-7.80 (m, 2H), 7.66 (s, 1H), 7.45-7.40 (m, 2H), 7.36-7.24 (m, 3H), 7.22-7.16 (m, 2H), 7.10-7.02 (m, 2H), 5.30-5.20 (m, 1H), 4.73-4.64 (m, 2H), 3.44 (A of AB, d, J=10 Hz, 1H), 3.39 (B of AB, d, J=10 Hz, 1H), 3.35 (s, 3H), 3.09 (A of AB, d, J=13.2 Hz, 1H), 2.94 (s, 3H), 2.87 (B of AB, d, J=13.2 Hz, 1H), 1.59 (d, J=7.2 Hz, 3H), 1.25 (s, 3H).

reactant | 2-amino-2-methyl-3-phenylpropan-1-ol | NC(CO)(CC1=CC=CC=C1)C | C10H15NO
reactant | sodium | [Na] | Na
reactant | 3-(bromomethyl)-N-[(1R)-1-(4-fluorophenyl)ethyl]-5-[methyl(methylsulfonyl)amino]benzamide | 0.06 mmol, 25 mg | BrCC=1C=C(C(=O)N[C@H](C)C2=CC=C(C=C2)F)C=C(C1)N(S(=O)(=O)C)C | C18H20BrFN2O3S
solvent | DMF | 0.5 nL | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 3-[(2-amino-2-methyl-3-phenylpropoxy)methyl]-N-[(1R)-1-(4-fluorophenyl)ethyl]-5-[methyl(methylsulfonyl)amino]benzamide | NC(COCC=1C=C(C(=O)N[C@H](C)C2=CC=C(C=C2)F)C=C(C1)N(S(=O)(=O)C)C)(CC1=CC=CC=C1)C | C28H34FN3O4S
